US04239901
86.5 ml (0.5 mole) of methylmalonic acid diethyl ester are added dropwise with good stirring under nitrogen at room temperature to a suspension of 12 g (0.5 mole) of sodium hydride in 500 ml of dimethylformamide. After cessation of evolution of hydrogen, 113.5 g (0.5 mole) of 1,2,4-trichloro-5-nitrobenzene are added dropwise and subsequently stirred for a further 2 hours at room temperature. Pouring onto 1 kg of ice is effected, followed by extracting five times with (in each case) 200 ml of cyclohexane, washing of the organic phase with water, drying, and distilling off the solvent. (2,5-dichloro-4-nitrophenyl)methylmalonic acid diethyl ester is thus obtained. This is boiled under reflux for 5 days in 2 liters of 6 N hydrochloric acid. Subsequently, cooling to room temperature is effected, followed by extracting with chloroform, and extracting the organic phase with sodium hydroxide solution. The aqueous phase is acidified with hydrochloric acid, and extraction with chloroform is effected. The organic phase is dried and concentrated in a vacuum to yield 109 g (82.5% of theory) of 2-(2,5-dichloro-4-nitrophenyl)propionic acid (m.p. 143° C.).

reactant | methylmalonic acid diethyl ester | 0.5 mole, 86.5 ml | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | sodium hydride | 0.5 mole, 12 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1,2,4-trichloro-5-nitrobenzene | 0.5 mole, 113.5 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | (2,5-dichloro-4-nitrophenyl)methylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])Cl)=O | C14H15Cl2NO6
